US07772221B2
Step AA (1): To a solution of 6-methoxy-2,3-dihydro-1H-inden-1-one (24 g) in methanol (150 mL) and THF (50 mL) at 0° C. was added sodium borohydride (5.6 g), and the resulting suspension was stirred at 0° C. for 1 h and rt for 30 min. Solvents were evaporated, and water was added. The aqueous solution was extracted with EtOAc (×4), and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo to give methyl 6-methoxy-2,3-dihydro-1H-inden-1-ol as a colorless oil (24.3 g), which was carried forward without purification. 1H NMR (400 MHz, CDCl3): 7.12 (1H, d), 6.95 (1H, d), 6.81 (1H, dd), 5.19 (1H, br. S), 3.79 (3H, s), 2.95 (1H, m), 2.74 (1H, m), 2.50 (1H, m), 1.94 (1H, m).

reactant | 6-methoxy-2,3-dihydro-1H-inden-1-one | 24 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | sodium borohydride | 5.6 g | [BH4-].[Na+]
reactant | methanol | 150 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 6-methoxy-2,3-dihydro-1H-inden-1-ol | 24.3 g | CC1(CCC2=CC=C(C=C12)OC)O | C11H14O2
